US09359375B2
A solution of 2-bromo-4-fluorobenzonitrile (200 mg, 1.00 mmol), O-benzyl-D-serinamide (290 mg, 1.49 mmol) and DIEA (0.466 mL, 2.68 mmol) in DMSO (3 mL) was stirred at 100 C for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with 0-60% EtOAc in hexane to give (R)-3-(benzyloxy)-2-(3-bromo-4-cyanophenylamino)propanamide (66 mg).

reactant | 2-bromo-4-fluorobenzonitrile | 1.00 mmol, 200 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | O-benzyl-D-serinamide | 1.49 mmol, 290 mg | C(C1=CC=CC=C1)OC[C@@H](N)C(=O)N | C10H14N2O2
reactant | DIEA | 2.68 mmol, 0.466 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-3-(benzyloxy)-2-(3-bromo-4-cyanophenylamino)propanamide | 66 mg | C(C1=CC=CC=C1)OC[C@H](C(=O)N)NC1=CC(=C(C=C1)C#N)Br | C17H16BrN3O2
